US06197783B1
b) 2,3-Dimethyl-7-(3-phenyl-1-oxo-2-propenyl)-8-pivaloylaminoimidazo[1,2-a]pyridine
A solution of 35.5 g of 2,3-dimethyl-7-(3-phenyl-1-hydroxy-2-propenyl)-8-pivaloylaminoimidazo[1,2-a]pyridine in 900 ml of trichloromethane is treated with 60 g of manganese dioxide and stirred vigorously at room temperature for 20 h. The mixture is then filtered, the filtrate is concentrated to dryness in vacuo and the oil obtained is treated with a little diisopropyl ether. The crystals obtained in this process are filtered off with suction. 31.5 g of the title compound of melting point 108-10° C. are obtained.

reactant | 2,3-dimethyl-7-(3-phenyl-1-hydroxy-2-propenyl)-8-pivaloylaminoimidazo[1,2-a]pyridine | 35.5 g | CC=1N=C2N(C=CC(=C2NC(C(C)(C)C)=O)C(C=CC2=CC=CC=C2)O)C1C | C23H27N3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | trichloromethane | 900 ml | ClC(Cl)Cl | CHCl3
catalyst | manganese dioxide | 60 g | [O-2].[O-2].[Mn+4]
product | 2,3-Dimethyl-7-(3-phenyl-1-oxo-2-propenyl)-8-pivaloylaminoimidazo[1,2-a]pyridine | 31.5 g | CC=1N=C2N(C=CC(=C2NC(C(C)(C)C)=O)C(C=CC2=CC=CC=C2)=O)C1C | C23H25N3O2
